US07601716B2
{1-[(5-Chloro-2-trifluoromethyl)benzyl]-1,2,3,4-tetrahydro-pyrido[2,3-b]pyrazin-7-yl}piperidin-1-yl-methanone
4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid (89 mg) was reacted with piperidine as in General Procedure 8 to give the title compound as an orange solid (64% yield). m.p.=216° C., LCMS: m/z=515.27 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.61 (6H, m), 2.88 (1H, s), 2.95 (1H, s), 3.38 (2H, s), 3.49 (2H, m), 3.69 (2H, m), 4.62 (2H, s), 5.26 (1H, s), 6.60 (1H, s), 7.37 (5H, m), 7.51 (1H, s), 7.64 (1H, d, J=8.3 Hz), 7.75 (1H, d, J=1.5 Hz).

reactant | 4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | 89 mg | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | {1-[(5-Chloro-2-trifluoromethyl)benzyl]-1,2,3,4-tetrahydro-pyrido[2,3-b]pyrazin-7-yl}piperidin-1-yl-methanone | 64% yield | C1CCN(CC1)C(=O)C2=CC=C(C=C2)C3=CC4=C(NCCN4CC5=C(C=CC(=C5)Cl)C(F)(F)F)N=C3 | C27H26ClF3N4O
